US05439909
Add 3.8 mmol of a 2M solution of sodium methanolate to a solution of 0.38 mmol of ethyl 6-acetoxy-1,4-benzodioxin-2-carboxylate in 5 cm3 of anhydrous methanol. After stirring for 4 hours at room temperature and neutralising with acid Dowex resin, the reaction mixture is concentrated under reduced pressure and the crude product obtained is purified by chromatography on a silica column (eluant: petroleum ether/diethyl ether, 80:20). Methyl 6-hydroxy-1,4-benzodioxin-2-carboxylate is thereby obtained in a yield of 87%.

reactant | sodium methanolate | C[O-].[Na+]
reactant | ethyl 6-acetoxy-1,4-benzodioxin-2-carboxylate | 0.38 mmol | C(C)(=O)OC1=CC2=C(OC(=CO2)C(=O)OCC)C=C1 | C13H12O6
solvent | methanol | 5 cm3 | CO | CH4O
product | Methyl 6-hydroxy-1,4-benzodioxin-2-carboxylate | yield of 87% | OC1=CC2=C(OC(=CO2)C(=O)OC)C=C1 | C10H8O5
